US08486952B2
To a solution of 3.0 M solution of phenylmagnesium bromide in ether (49.7 mL, 149 mmol) was added THF (300 mL). To this solution cooled to 0° C. cyclopentanone (13.23 mL, 149 mmol) was added. The reaction mixture was stirred at room temperature for 30 min, then—at reflux for 2 h. Ice (20 g) was added, followed by 6N HCl, until the precipitate dissolved. The product was extracted with ether. The combined etherial layers were washed with saturated sodium bicarbonate solution, dried over anhydrous magnesium sulfate and filtered. The solvent was removed in vacuum and the residue was purified by column chromatography on silica gel to give cyclopentenylbenzene (21.49 g, 149 mmol, 100% yield) as colorless oil. LC-MS (M+H)+=145.1. 1H NMR (500 MHz, CDCl3) δ ppm 7.48 (2H, d, J=7.3 Hz), 7.35 (2H, t, J=7.8 Hz), 7.22-7.27 (1H, m), 6.22 (1H, t, J=2.1 Hz), 2.70-2.80 (2H, m), 2.52-2.64 (2H, m), 2.01-2.12 (2H, m).

reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | ether | 149 mmol, 49.7 mL | CCOCC | C4H10O
reactant | cyclopentanone | 149 mmol, 13.23 mL | C1(CCCC1)=O | C5H8O
reactant | then—at | C1(=CC=CS1)C(=O)[O-]
reactant | HCl | 6N | Cl | ClH
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | cyclopentenylbenzene | 149 mmol, 21.49 g, 100% yield | C1(=CCCC1)C1=CC=CC=C1 | C11H12
